US03944581
A. α-{[(2,4-Diphenyl-5-pyrimidinyl)-1-ethylidene]aminomethyl}benzyl Alcohol
A mixture of 61.2 g (0.223 mole) of 2,4-diphenyl-5-pyrimidyl methyl ketone, 30.6 g (0.223 mole) of β-hydroxyphenethylamine and 3.0 g p-toluenesulfonic acid monohydrate in 750 ml toluene was stirred and refluxed using a Dean-Stark apparatus for 11.0 hours, amt. H2O evolved: 4:10 ml; theoretical amt.: 4.0 ml. The toluene was removed in vacuo and the residue was dissolved in 1000 ml chloroform. The solution was washed with 300 ml H2O, dried (MgSO4), and concentrated to dryness in vacuo. Recrystallization of the residue from ethanol gave in three crops 72 g (82%) of the product, m.p. 140°-144°.

reactant | 2,4-diphenyl-5-pyrimidyl methyl ketone | 0.223 mole, 61.2 g | CC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)C1=CC=CC=C1 | C18H14N2O
reactant | β-hydroxyphenethylamine | 0.223 mole, 30.6 g | OC(CN)C1=CC=CC=C1 | C8H11NO
reactant | H2O | O | H2O
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 3.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | α-{[(2,4-Diphenyl-5-pyrimidinyl)-1-ethylidene]aminomethyl}benzyl Alcohol | 72 g, 82% | C1(=CC=CC=C1)C1=NC=C(C(=N1)C1=CC=CC=C1)CC=NCC(C1=CC=CC=C1)O | C26H23N3O
